US09056914B2
To a solution of 989 mg of 2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethanol in 2.8 mL of anhydrous THF was added 1.04 mg of sodium. After heating at 40° C. for 2 hours 15 minutes, 793 μL of tert-butyl acrylate were added. After heating for a further two hours at 40° C., the reaction mixture was left for 20 hours at room temperature and then concentrated under reduced pressure and purified by flash chromatography on silica (Merck SuperVarioPrep 70 g column, Si60 15-40 μm), using a gradient of 0 to 6% MeOH in DCM. The fractions containing the desired product were combined and concentrated under reduced pressure. 1 g of tert-butyl 3-{2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethoxy}-propanoate were obtained. LC/MS (E): tr (ELSD)=0.59 min; [M+H]+: m/z 348

reactant | 2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethanol | 989 mg | N1(CCOCC1)CCOCCOCCO | C10H21NO4
reactant | sodium | 1.04 mg | [Na] | Na
reactant | tert-butyl acrylate | 793 μL | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-{2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethoxy}-propanoate | 1 g | N1(CCOCC1)CCOCCOCCOCCC(=O)OC(C)(C)C | C17H33NO6
